US05136091
26.9 g (100 mmol) of (1-cyanocyclohexyl)malonic acid dimethyl ester, 4.3 g (100 mmol) or lithium chloride and 3.6 g (200 mmol) of water were heated in 300 ml of dimethyl sulfoxide for 22 hours to 150° C. Then it was cooled, mixed with 700 ml of water and extracted with 1000 ml of pentane. 14.4 g of (1-cyanocyclohexyl)acetic acid ethyl ester was obtained by distillation of the organic phase, corresponding to a yield of 74 percent (relative to the (1-cyanocyclohexyl)malonic acid dimethyl ester used). Data for the product was:

reactant | (1-cyanocyclohexyl)malonic acid dimethyl ester | 100 mmol, 26.9 g | COC(C(C(=O)OC)C1(CCCCC1)C#N)=O | C12H17NO4
reactant | lithium chloride | [Cl-].[Li+]
reactant | water | 200 mmol, 3.6 g | O | H2O
reactant | water | 700 ml | O | H2O
reactant | dimethyl sulfoxide | 300 ml | CS(=O)C | C2H6OS
product | (1-cyanocyclohexyl)acetic acid ethyl ester | 14.4 g, yield of 74 percent | C(C)OC(CC1(CCCCC1)C#N)=O | C11H17NO2
